US07625880B2
To a 50 mL round bottom flask equipped with a stir bar was added 2-(2,6-dichloro-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde (0.415 g, 1.03 mmol) and THF (12 mL). The reaction mixture was cooled to −78° C. To the stirred suspension was added vinylmagnesium bromide (5 mL, 1 M in THF, 5 mmol) in one portion. The solution was allowed to gradually warm to −30° C. over 1 h. Additional vinylmagnesium bromide (3 mL, 1 M in THF, 3 mmol) was added and the reaction mixture was further warmed to 0° C. over 1.5 h. The cold reaction mixture was poured into saturated aqueous ammonium chloride (50 mL) and extracted with EtOAc (3×50 mL). The organic fractions were collected, washed with brine (3×25 mL) and concentrated. The resulting solid was further purified by flash chromatography, eluting with EtOAc:Hexane (0-100%) to give 2-(2,6-dichloro-phenylamino)-7-(1-hydroxy-allyl)-1,6-dimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one (0.175 g, 40%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6+TFA) δ 10.43 (s, 1H), 7.77-7.75 (m, 4H), 7.59 (t, 1H, J=8.6 Hz), 6.06-5.98 (m, 1H) 5.42 (app d, 1H, J=5.5 Hz), 5.32 (app d, 1H, J=17.2 Hz), 5.16 (app d, 1H, J=10.2 Hz), 4.26 (s, 3H), 2.27 (s, 3H); ESMS (m/z): found, 429.

reactant | 2-(2,6-dichloro-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde | 1.03 mmol, 0.415 g | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=O)C)N1)C | C19H14Cl2N4O2
reactant | vinylmagnesium bromide | 5 mmol, 1 M, 5 mL | C(=C)[Mg]Br
reactant | vinylmagnesium bromide | 3 mmol, 1 M, 3 mL | C(=C)[Mg]Br
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-(2,6-dichloro-phenylamino)-7-(1-hydroxy-allyl)-1,6-dimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | 0.175 g, 40% | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C(C=C)O)C)N1)C | C21H18Cl2N4O2
